US09399639B2
ethyl 3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl(propylsulfonyl)carbamate
To a suspension of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-propane-1-sulfonamide (0.2 g, 0.41 mmol) in dioxane (15 mL) were added ethyl chloroformate (EtOCOCl, 44 mg, 0.41 mmol) and triethylamine (0.14 g, 1.38 mmol). The reaction was stirred at rt for 1.5 h, then concentrated in vacuo. The residue was purified by a silica gel column chromatography (hexane/EtOAc (v/v)=4/1) to afford the title compound as a white solid (0.12 g, 50%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)-propane-1-sulfonamide | 0.41 mmol, 0.2 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | ethyl chloroformate | 0.41 mmol, 44 mg | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.38 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | ethyl 3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl(propylsulfonyl)carbamate | 0.12 g, 50% | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)N(C(OCC)=O)S(=O)(=O)CCC)F | C26H22ClF2N3O5S
